US07807686B2
To a solution of (1R,4S)-4-piperidin-1-ylcyclopent-2-en-1-ol (50 mg, 0.30 mmol) in methanol (1 mL), was added a catalytic amount of platinum (IV) oxide (PtO2). The mixture was stirred under a hydrogen atmosphere (1 atm.) for 4 h. The mixture was filtered and solvent evaporated in vacuo to afford (1S,3R)-3-piperidin-1-ylcyclopentanol (32 mg, 0.19 mmol, 63%). This was used in the next step without further purification.

reactant | (1R,4S)-4-piperidin-1-ylcyclopent-2-en-1-ol | 0.30 mmol, 50 mg | N1(CCCCC1)[C@@H]1C=C[C@@H](C1)O | C10H17NO
solvent | methanol | 1 mL | CO | CH4O
catalyst | platinum (IV) oxide | [Pt](=O)=O
product | (1S,3R)-3-piperidin-1-ylcyclopentanol | 0.19 mmol, 32 mg, 63% | N1(CCCCC1)[C@H]1C[C@H](CC1)O | C10H19NO
